US04041058
rac. 3-Benzyloxy-2-methylpropionitrile
Benzyl alcohol (108 g.; 1 mole) was stirred and treated with 0.3 g. of 50% by weight sodium hydride in a mineral oil dispersion. To the resulting solution was added dropwise 415 ml. (335 g.; 5moles) of methacrylonitrile over a 40 minute period, at room temperature. The reaction mixture was heated at 60°-65° C. for 5 hours then cooled, acidified with 1 N aqueous H2SO4 and diluted with ether. The ether solution was washed twice with saturated brine then dried, filtered and concentrated in vacuo. Distillation of the residue gave, after removal of low boiling materials, 149.3 g. (85%) of rac. 3-benzyloxy-2-methylpropionitrile as a colorless liquid, b.p. 90°-93° C. (0.02 mm Hg.).

reactant | Benzyl alcohol | 1 mole, 108 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | [H-].[Na+]
reactant | methacrylonitrile | 5moles, 335 g | C(C(=C)C)#N | C4H5N
reactant | H2SO4 | 1 N | OS(=O)(=O)O | H2O4S
solvent | ether | CCOCC | C4H10O
product | rac. 3-Benzyloxy-2-methylpropionitrile | C(C1=CC=CC=C1)OCC(C#N)C | C11H13NO
